US05780482
Ethyl 6-ethoxy-4-hydroxy-1,5-naphthyridine-3-carboxylate (3.0 g) was added to phosphorus oxychloride (25 ml), with stirring, at ambient temperature. The mixture was heated at 50° C. for 45 minutes. The mixture was cooled to 10° C. and added to ice/water at less than 5° C. The mixture was then basified with concentrated aqueous ammonia solution SG 0.88 at less than 5° C. The mixture was extracted with dichloromethane to give ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate, m.p. 61°-64° C.

reactant | Ethyl 6-ethoxy-4-hydroxy-1,5-naphthyridine-3-carboxylate | 3.0 g | C(C)OC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C13H14N2O4
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
product | ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate | ClC1=C(C=NC2=CC=C(N=C12)OCC)C(=O)OCC | C13H13ClN2O3
